US06040345
5.29 g iron filings, 240 mL of a 2/1 ethanol-water mixture, and 8.3 g 3,5-dichloro-4-(1-methyl-2,2,3,3,4,4,4-heptafluorobutoxy)nitrobenzene was stirred vigorously and heated under reflux while 2.0 mL conc. HCl in 2 mL ethanol was added dropwise. After one hour 2.0 mL conc. HCl in 2.0 mL ethanol was added and reflux was maintained for 6 hrs. Then added 2.0 mL conc. HCl in 3.0 mL ethanol and maintained reflux overnight. The mixture was filtered hot through Celite. The filtrate was concentrated under vacuum before being partitioned in saturated sodium bicarbonate and diethyl ether. The layers were separated and the aqueous layer was extracted with diethyl ether. The combined organics were washed with brine, dried (MgSO4), filtered, and concentrated to give 4.79 g of 3,5-Dichloro-4-(1-methyl-2,2,3,3,4,4,4-heptafluorobutoxy)aniline as an amber oil. 1H NMR and MS confirm pure product. Anal. calcd C11H8Cl2F7NO: C, 35.32; H, 2.16; N, 3.74. Found: C, 36.40; H, 2.33; N, 3.98.

reactant | ethanol water | C(C)O.O
reactant | 3,5-dichloro-4-(1-methyl-2,2,3,3,4,4,4-heptafluorobutoxy)nitrobenzene | 8.3 g | ClC=1C=C(C=C(C1OC(C(C(C(F)(F)F)(F)F)(F)F)C)Cl)[N+](=O)[O-] | C11H6Cl2F7NO3
reactant | HCl | 2.0 mL | Cl | ClH
reactant | HCl | 2.0 mL | Cl | ClH
reactant | HCl | 2.0 mL | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
catalyst | iron | 5.29 g | [Fe] | Fe
product | 3,5-Dichloro-4-(1-methyl-2,2,3,3,4,4,4-heptafluorobutoxy)aniline | 4.79 g | ClC=1C=C(N)C=C(C1OC(C(C(C(F)(F)F)(F)F)(F)F)C)Cl | C11H8Cl2F7NO
